US05047404
3-Methylthio-8-oxo-6-(2-isobutoxyphenyl)-7,8-dihydropyrimido[4,5-e][1,2,4]triazine
In a similar manner to Example 18 reaction of 3-methylthio-5-chloro-6-carboethoxy-1,2,4-triazine (prepared from 3-methylthio-5-oxo-6-carboethoxy-4,5-dihydro-1,2,4-triazine, 1.5 g) with 2-isobutoxybenzamidine hydrochloride (2.37 g) and triethylamine (1.75 g) afforded the crude title compound (1.71 g). This was recrystallised from acetonitrile, then dissolved in chloroform, the organic solution was washed with 2 Normal hydrochloric acid (x 2), chloroform removed under reduced pressure and the residue recrystallised twice from ethanol to afford the title compound, 0.32 g, m.p. 237°-238° C.

reactant | 3-methylthio-5-chloro-6-carboethoxy-1,2,4-triazine | 1.5 g | CSC=1N=NC(=C(N1)Cl)C(=O)OCC | C7H8ClN3O2S
reactant | 2-isobutoxybenzamidine hydrochloride | 2.37 g | Cl.C(C(C)C)OC1=C(C(=N)N)C=CC=C1
solvent | triethylamine | 1.75 g | C(C)N(CC)CC | C6H15N
product | 3-Methylthio-8-oxo-6-(2-isobutoxyphenyl)-7,8-dihydropyrimido[4,5-e][1,2,4]triazine | CSC=1N=NC2=C(N1)N=C(NC2=O)C2=C(C=CC=C2)OCC(C)C | C16H17N5O2S
